US06136982
reacting ethylcyanoacetate with acetone to yield ethylisopropylidenecyanoacetate;

reactant | ethylcyanoacetate | C(C)OC(CC#N)=O | C5H7NO2
reactant | acetone | CC(=O)C | C3H6O
product | ethylisopropylidenecyanoacetate | C(C)OC(C(C#N)=C(C)C)=O | C8H11NO2
